US08048887B2
2-(4-Fluorophenyl)-5-(3-(5-isopropyl-1,3,4-oxadiazol-2-yl)phenyl)-N-methylbenzofuran-3-carboxamide
Isobutyryl chloride (90 mg, 0.847 mmol) was added to a stirring solution of 5-(3-(1H-tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (50 mg, 0.085 mmol) in pyridine (1 mL) at 100° C. It was allowed to stir overnight. The reaction was concentrated and diluted with EtOH (3 mL) and treated with excess 1N NaOH (500 μL) and stirred at 60° C. for 2 hours to hydrolyze the acylated amide. The mixture was filtered and the filtrate was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the titled compound (8 mg, 20%). 1H NMR (500 MHz, CD3OD) δ ppm 8.31-8.35 (1H, m), 8.03 (1H, d, J=7.94 Hz), 7.95-8.00 (3H, m), 7.93 (1H, d, J=7.93 Hz), 7.67-7.74 (3H, m), 7.25-7.30 (2H, m), 3.37-3.40 (1H, m), 2.99 (3H, s), 1.49 (6H, d, J=7.02 Hz). LC-MS retention time: 2.28 min; m/z (MH+): 456. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=14.30 min, purity=94%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 μm, Rt=12.50 min, purity=93%.

reactant | Isobutyryl chloride | 0.847 mmol, 90 mg | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 5-(3-(1H-tetrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.085 mmol, 50 mg | N1N=NN=C1C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C23H16FN5O2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-Fluorophenyl)-5-(3-(5-isopropyl-1,3,4-oxadiazol-2-yl)phenyl)-N-methylbenzofuran-3-carboxamide | 8 mg, 20% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=CC=C2)C=2OC(=NN2)C(C)C | C27H22FN3O3
